US07538239B2
2-(2,3,5-trimethylcyclopenta-1,4-dienyl)phenyl(trimethylacetyl)amine
An experiment was performed in the same manner as in Example 49 using 0.534 g (2.68 mmol) of 2-(2,3,5-trimethylcyclopenta-1,4-dienyl)phenylamine, 0.325 g (3.22 mmol) of triethylamine, and 0.388 g (3.22 mmol) of pivaloyl chloride. The reaction product was purified using a column chromatography with a hexane/ethylacetate (v/v, 5:1) solvent. The purified product was dried in vacuum to remove the solvent therein, thereby obtaining while solid (0.674 g, 89%).

reactant | 2-(2,3,5-trimethylcyclopenta-1,4-dienyl)phenylamine | 2.68 mmol, 0.534 g | CC1=C(C(=CC1C)C)C1=C(C=CC=C1)N | C14H17N
reactant | triethylamine | 3.22 mmol, 0.325 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 3.22 mmol, 0.388 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 2-(2,3,5-trimethylcyclopenta-1,4-dienyl)phenyl(trimethylacetyl)amine | 0.674 g, 89% | CC1=C(C(=CC1C)C)C1=C(C=CC=C1)NC(C(C)(C)C)=O | C19H25NO
